US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(3-methylbut-2-en-1-yl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine
Prepare by the method of Example 35.1 using 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine and 1-chloro-3-methylbut-2-ene to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(2-(4-(1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C34H41N5O4
reactant | 1-chloro-3-methylbut-2-ene | ClCC=C(C)C | C5H9Cl
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(3-methylbut-2-en-1-yl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-phenylpyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCN(CCC2)C2=NC3=C(N2CC=C(C)C)C=CC=C3)C=C(C1OC)OC | C39H49N5O4
